US07371768B2
Under a nitrogen atmosphere, 500 mg (1.21 mmol) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyridin-2-ylmethylamino)pyrazole-3-carbonitrile was suspended into 5.0 mL of dried dichloromethane, and 2.0 mL of dried dichloromethane containing 180 mg (1.52 mmol, 1.25 eq.) of difluoromethylsulfenyl chloride was added dropwise thereto under stirring at room temperature, followed by reaction for 2 hours. Ethyl acetate (100 mL) was added thereto, and the organic layer was washed successively with 20 mL of a saturated aqueous sodium hydrogen carbonate solution and 20 mL of water, followed by drying over anhydrous magnesium sulfate. After magnesium sulfate was filtered off, the solvent was removed by distillation under reduced pressure and the crude product was recrystallized from a mixed solvent of hexane/ethyl acetate (3/1) to thereby obtain 535 mg of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-difluoromethylthio-5-(pyridin-2-ylmethylamino)pyrazole-3-carbonitrile (yield: 90%, purity: 96%).

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(pyridin-2-ylmethylamino)pyrazole-3-carbonitrile | 1.21 mmol, 500 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1NCC1=NC=CC=C1)C#N | C17H10Cl2F3N5
reactant | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 1.52 mmol, 2.0 mL, 180 mg, 1.25 eq. | ClCCl | CH2Cl2
reactant | difluoromethylsulfenyl chloride | FC(SCl)F | CHClF2S
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-difluoromethylthio-5-(pyridin-2-ylmethylamino)pyrazole-3-carbonitrile | 535 mg, yield: 90% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCC1=NC=CC=C1)SC(F)F)C#N | C18H10Cl2F5N5S
